US06333358B1
In 80 ml of methanol was dissolved 8.00 g of N-acetyl-N-(2-nitrobenzyl)-2-phenoxyaniline synthesized in the same manner as in Example 3, and then 66 mg of platinum dioxide was added, followed by stirring under a hydrogen atmosphere at room temperature overnight. To the reaction mixture was added 40 ml of chloroform for dissolving the precipitate, and the catalyst was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was recrystallized from methanol to give 6.88 g of N-acetyl-N-(2-aminobenzyl)-2-phenoxyaniline.

reactant | N-acetyl-N-(2-nitrobenzyl)-2-phenoxyaniline | 8.00 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)[N+](=O)[O-] | C21H18N2O4
reactant | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 80 ml | CO | CH4O
catalyst | platinum dioxide | 66 mg | [Pt](=O)=O
product | N-acetyl-N-(2-aminobenzyl)-2-phenoxyaniline | 6.88 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)N | C21H20N2O2
